US07205302B2
Under an argon atmosphere, a solution of 1.443 g of 2-picoline in 1.7 ml of 1,2-dichloroethane was cooled to −10° C. A solution of chlorosulfonic acid in 3.5 ml of 1,2-dichloroethane was added dropwise at 0° C. or lower and, after stirring for 15 minutes, 712 mg of 2-[4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butyloxy]acetamide was added. The reaction solution was heated to 75° C. and air-cooled to room temperature after stirring for 2 hours. The reaction solution was diluted with dichloromethane and then washed in turn with an aqueous 0.6M sodium hydrogen sulfate and water. The reaction solution was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) to obtain 798 mg of N-[2-{4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butyloxy}acetyl]sulfamic acid.

reactant | 2-picoline | 1.443 g | N1=C(C=CC=C1)C | C6H7N
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | 2-[4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butyloxy]acetamide | 712 mg | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C(C)C)CCCCOCC(=O)N | C25H30N4O2
solvent | 1,2-dichloroethane | 1.7 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 3.5 ml | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-{4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butyloxy}acetyl]sulfamic acid | 798 mg | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C(C)C)CCCCOCC(=O)NS(O)(=O)=O | C25H30N4O5S
